US08278328B2
A solution of 2,3-difluoro-4-methyl-6-nitrophenol (1.2 g, 6.35 mmol) (D44) in ethanol (120 mL) was hydrogenated using a 10% Pd/C cartridge in the H-cube™ hydrogenator at 1 mL/min and full hydrogen at 25° C. Evaporation gave 2,3-difluoro-4-methyl-6-aminophenol (1.0 g, 6.28 mmol, 99% yield) as a fawn solid.

reactant | 2,3-difluoro-4-methyl-6-nitrophenol | 6.35 mmol, 1.2 g | FC1=C(C(=CC(=C1F)C)[N+](=O)[O-])O | C7H5F2NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 120 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2,3-difluoro-4-methyl-6-aminophenol | 6.28 mmol, 1.0 g, 99% yield | FC1=C(C(=CC(=C1F)C)N)O | C7H7F2NO
